US04714492
5.0 gms of ethyl 2,6-di(4'-chlorophenyl)3-etoxycarbonyl-pyr-4-one, 100 mls of methanol, 19 mls of 40% aqueous methylamine, 19 mls of water and 2.9 mls of glacial acetic acid were mixed and allowed to stand at room temperature for 3 hours. The mixture was poured into water and extracted with methylene chloride to provide 5 gms of crude ethyl 1-methyl-2,6-di(4-chlorophenyl)-4-oxonicotinate as a yellowish semi-solid.

reactant | ethyl 2,6-di(4'-chlorophenyl)3-etoxycarbonyl-pyr-4-one | 5.0 gms | C(C)C=1C(C(=C(OC1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(=O)OCC)=O | C22H18Cl2O4
reactant | methanol | 100 mls | CO | CH4O
reactant | methylamine | 19 mls | CN | CH5N
solvent | water | O | H2O
solvent | acetic acid | 2.9 mls | C(C)(=O)O | C2H4O2
solvent | water | 19 mls | O | H2O
product | ethyl 1-methyl-2,6-di(4-chlorophenyl)-4-oxonicotinate | 5 gms | CN1C(=C(C(=O)OCC)C(C=C1C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)Cl | C21H17Cl2NO3
